US06903118B1
N-{2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethyl}-3-pyridin-3-yl-acrylamide trihydrochloride (substance 35 as trihydrochloride)
Batch size: 6.0 g (40 mmol) 3-(3-pyridyl)-acrylic acid, 9.4 ml (110 mmol) oxalyl chloride and 12.4 g (36.5 mmol) 2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethylamine. The crude product is chromatographically pre-purified over silica gel with CHCl3/CH3OH (98/2 to 95/5). After removal of the solvent, the residue is dissolved in isopropanol and mixed with isopropanolic HCl solution. The mixture is rotated in and the HCl salt is cyrstallized from 50 ml methanol/6 drops diisopropyl ether: Colorless crystals of MP. 157-159° C.; yield 0.6 g (3%).

reactant | 3-(3-pyridyl)-acrylic acid | 40 mmol, 6.0 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 110 mmol, 9.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethylamine | 36.5 mmol, 12.4 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCN)C1=CC=CC=C1 | C21H29N3O
product | N-{2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethyl}-3-pyridin-3-yl-acrylamide trihydrochloride | Cl.Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | InChI=1S/C29H34N4O2.3ClH/c34-28(14-13-25-8-7-15-30-24-25)31-16-22-35-23-21-32-17-19-33(20-18-32)29(26-9-3-1-4-10-26)27-11-5-2-6-12-27;;;/h1-15,24,29H,16-23H2,(H,31,34);3*1H
